US09085555B2
3-Acetyl-1-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-5-carboxylic acid
To a solution of 3-acetyl-1-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-5-carboxylic acid methyl ester (141 mg, 0.268 mmol) in THF (3 mL) and water (0.3 mL) was added 2N LiOH (1.07 mL, 2.14 mmol). Stirring of the reaction mixture was continued at 50° C. for 60 h. After cooling to RT, a 1N HCl solution was added to adjust to pH=2-3, and the resulting aqueous suspension was extracted with CH2Cl2 (3×). The combined organics were dried (phase separator) and concentrated under reduced pressure. The residue was purified by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, flow: 40 mL/min, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) to afford after lyophilization of the purified fractions the title compound as a white solid. MS (LC/MS): 512 [M+H]+; tR (HPLC conditions c): 4.33 min.

reactant | 3-acetyl-1-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-5-carboxylic acid methyl ester | 0.268 mmol, 141 mg | COC(=O)C=1C=C2C(=CN(C2=CC1)CC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)C(C)=O | C27H25ClFN3O5
reactant | LiOH | 2.14 mmol, 2N, 1.07 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 0.3 mL | O | H2O
product | 3-Acetyl-1-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-5-carboxylic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)C(=O)O)CC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O | C26H23ClFN3O5
